US07423150B2
Synthesis of N-{4-[(2-{[2-fluoro-5-(trifluoromethyl)phenyl]amino}-1-methyl-1H-benzimidazol-5-yl)oxy]pyridin-2-yl}-2-[(2S)-2-(hydroxymethyl)pyrrolidin-1-yl]acetamide
2-Fluoro-5-(trifluoromethyl)phenyl isothiocyanate was added to a solution of N-[4-(3-Amino-4-methylamino-phenoxy)-pyridin-2-yl]-2-(2-hydroxymethyl-pyrrolidin-1-yl)-acetamide in methanol. Reaction was stirred at room temperature for 15 hours. Thiourea formation was confirmed by LC/MS. Ferric chloride was added and the resulting mixture was stirred at room temperature for 4 hours. After cyclization was complete by LC/MS the reaction mixture was concentrated and aqueous sodium carbonate was added until basic pH. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water then brine, and dried over magnesium sulfate and concentrated. The crude product was purified by reverse phase HPLC. MS: MH+=559.3.

reactant | 2-Fluoro-5-(trifluoromethyl)phenyl isothiocyanate | FC1=C(C=C(C=C1)C(F)(F)F)N=C=S | C8H3F4NS
reactant | N-[4-(3-Amino-4-methylamino-phenoxy)-pyridin-2-yl]-2-(2-hydroxymethyl-pyrrolidin-1-yl)-acetamide | NC=1C=C(OC2=CC(=NC=C2)NC(CN2C(CCC2)CO)=O)C=CC1NC | C19H25N5O3
reactant | Thiourea | NC(=S)N | CH4N2S
solvent | methanol | CO | CH4O
product | N-{4-[(2-{[2-fluoro-5-(trifluoromethyl)phenyl]amino}-1-methyl-1H-benzimidazol-5-yl)oxy]pyridin-2-yl}-2-[(2S)-2-(hydroxymethyl)pyrrolidin-1-yl]acetamide | FC1=C(C=C(C=C1)C(F)(F)F)NC1=NC2=C(N1C)C=CC(=C2)OC2=CC(=NC=C2)NC(CN2[C@@H](CCC2)CO)=O | C27H26F4N6O3
